US06008362
2-(4-Chloro-1-phenyl-butylidene)-N-methyl-hydrazinecarbothioamide
A mixture of 4-chlorobutyrophenone (7.6 mL, 48 mmol) and 4-methylthiosemicarbazide (5.0 g, 48 mmol) in 300 mL of ethanol under a nitrogen atmosphere was warmed to dissolve all the solids and then allowed to stir at room temperature overnight. The solvent was removed under reduced pressure to give 13.0 g of a light yellow solid. Recrystallization of the solid form ethanol gave 7.25 g (57%) of the title compound as a white solid, mp 94-96° C.

reactant | 4-chlorobutyrophenone | 48 mmol, 7.6 mL | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | 4-methylthiosemicarbazide | 48 mmol, 5.0 g | CNC(NN)=S | C2H7N3S
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-(4-Chloro-1-phenyl-butylidene)-N-methyl-hydrazinecarbothioamide | 13.0 g | ClCCCC(C1=CC=CC=C1)=NNC(NC)=S | C12H16ClN3S
